US08008303B2
5′-(5-Cyclopropyl-[1,2,4]oxadiazol-3-yl)-2′-methyl-biphenyl-4-carboxylic acid [4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenyl]-amide
5′-(N-Hydroxycarbamimidoyl)-2′-methyl-biphenyl-4-carboxylic acid [4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenyl]-amide (50 mg) and cyclopropylcarbonyl chloride (0.02 ml) was heated in a microwave at 150 C for 40 min. The solvent was then evaporated and the residue purified on silica gel. Gradient elution with 0-30% 20:8:1 CH2Cl2/EtOH/NH3 in CH2Cl2 gave the title compound as a white solid (24 mg).

reactant | 5′-(N-Hydroxycarbamimidoyl)-2′-methyl-biphenyl-4-carboxylic acid [4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenyl]-amide | 50 mg | O=S1(CCN(CC1)CC1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)C(NO)=N)C)=O | C26H28N4O4S
reactant | cyclopropylcarbonyl chloride | 0.02 ml | C1(CC1)C(=O)Cl | C4H5ClO
product | 5′-(5-Cyclopropyl-[1,2,4]oxadiazol-3-yl)-2′-methyl-biphenyl-4-carboxylic acid [4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenyl]-amide | 24 mg | O=S1(CCN(CC1)CC1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)C1=NOC(=N1)C1CC1)C)=O | C30H30N4O4S
